US06001867
[4-(2-Bromo-dibenzothiophen-1-yl)-phenoxy]-acetic Acid Methyl Ester
To a solution of 4-(2-bromo-dibenzothiophen-1-yl)-phenol (0.480 g, 1.35 mmol) and potassium carbonate (0.385 g, 2.79 mmol, 2.06 eq) in anhydrous N,N-dimethylformamide (3 mL) was added methylbromoacetate (0.255 mL, 2.07 mmol, 2 eq) dropwise at room temperature under a dry nitrogen atmosphere. After stirring 24 hours the reaction mixture was poured into water (100 mL) and the organics were extracted into ether (100 mL) The ether was washed with water (100 mL) and brine (100 mL). Silica gel was added and the solvents removed. The adsorbate was flash chromatographed (55/45 petroleum ether/methylene chloride) and dried in vacuo at 58° C. to provide the title compound as a white solid (0.509 g, 88%); mp 122-122.5° C. NMR (DMSO-d6), δ 8.02 (d, J=8 Hz, 1H), 8.00 (d, J=8 Hz, 1H), 7.83 (d, J=8 Hz, 1H), 7.41 (t, J=8 Hz, 1H), 7.26-7.20 (m, 2H), 7.19 -7.16 (m, 2H), 7.13-7.09 (ddd, J=8,7,1, 1H), 6.53 (d, J=8 Hz 1H), 4.94 (s, 2H), 3.75 (s, 3H), MS [PBEI] M*+ m/z=426(100%), 428(98%), 1 bromine isotope pattern detected, Anal. Calc. for C21H15O3SBr: C, 59.03, H, 3.54, N, 0.00. Found: C, 58.91, H, 3,27, N, -0.02.

reactant | 4-(2-bromo-dibenzothiophen-1-yl)-phenol | 1.35 mmol, 0.480 g | BrC1=C(C2=C(SC3=C2C=CC=C3)C=C1)C1=CC=C(C=C1)O | C18H11BrOS
reactant | potassium carbonate | 2.79 mmol, 0.385 g, 2.06 eq | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 2.07 mmol, 0.255 mL, 2 eq | COC(CBr)=O | C3H5BrO2
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | [4-(2-Bromo-dibenzothiophen-1-yl)-phenoxy]-acetic Acid Methyl Ester | 0.509 g, 88% | COC(COC1=CC=C(C=C1)C1=C(C=CC=2SC3=C(C21)C=CC=C3)Br)=O | C21H15BrO3S
